US07652053B2
cis-[4-(2,5-Dimethyl-benzoimidazol-1-yl)-cyclohexyl]-(5-trifluoromethyl-indan-2-ylmethyl)-amine
This compound was prepared from the hydrochloride salt of cis-4-(2,5-dimethyl-benzoimidazol-1-yl)-cyclohexylamine and 5-trifluoromethyl-indan-2-carbaldehyde. 1H-NMR is consistent with the assigned structure, LC-MS showed a single peak, C26H30F3N3 (m/e) calcd 441.2392, obsd 442.2 (M+H).

reactant | cis-4-(2,5-dimethyl-benzoimidazol-1-yl)-cyclohexylamine | CC1=NC2=C(N1[C@H]1CC[C@H](CC1)N)C=CC(=C2)C | C15H21N3
reactant | 5-trifluoromethyl-indan-2-carbaldehyde | FC(C=1C=C2CC(CC2=CC1)C=O)(F)F | C11H9F3O
product | cis-[4-(2,5-Dimethyl-benzoimidazol-1-yl)-cyclohexyl]-(5-trifluoromethyl-indan-2-ylmethyl)-amine | CC1=NC2=C(N1[C@H]1CC[C@H](CC1)NCC1CC3=CC=C(C=C3C1)C(F)(F)F)C=CC(=C2)C | C26H30F3N3
